Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Nausea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w/ polysubstance abuse (IV heroin, cocaine), tobacco use,
HCV, HTN, who p/w weakness, dyspnea, and vomiting. 

The patient is a vague historian. He lives alone in a room above
the ___. He says he eats badly and sometimes go a
long time between meals, largely owing to poor food access. He
says he has money for food, but cannot be bothered to go out in
the setting of escalating fatigue/weakness/unintentional weight
loss. Just stays home and does drugs instead. 

Regarding his drug use, he is a longstanding cocaine user and
continues to use this actively. He has recently stopped taking
Suboxone (unclear why) and has instead "reintroduced heroin to 
my
regimen." He has only injected a couple times since making the
decision to relapse. Although he appears to be possibly
intoxicated with some deliriant at the time of my interview, he
denies any intentional use of any other drugs. 

He had several episodes of vomiting, and also subjective
shortness of breath in the early morning hours of ___. He
walked to the store but then felt too fatigued and ill to walk
back. He requested a ride home from a nearby EMS crew (who had
showed up in his immediate area to assess a different patient).
EMS did not feel that he was in any distress, noted that his
vitals were stable (HR 72, BP 118/82, not hypoxic), but they
brought him to the ED for evaluation given his reported 
symptoms.

In the ED, vitals remained stable, but labs showed numerous
abnormalities: 
 WBC 10.3 (78% polys)
 Bicarb 47 (AG 17, lactate 2.2)
 VBG w/ pH 7.48, pCO2 74 (which is appropriate compensation, per
Winter's formula)
 K 2.4
 Cr 1.3, BUN 39
 EKG with QTc >580. 

Although he seemed superficially oriented, he was unable to
report the year accurately. Exam otherwise unremarkable. He was
given 1L NS w/ 40 mEq KCl and 40 more mEq of PO KCl. Admitted to
medicine.  

ROS
 Patient is a vague historian and ROS is unreliable, but 
positive
as per HPI.

 
Past Medical History:
PAST MEDICAL HISTORY:
-IV drug abuse
-hepatitis C
-hypertension
-diverticulitis
-bipolar disorder
-chronic pain
-erectile dysfunction

PAST SURGICAL HISTORY:
-colostomy procedure (___?) for perforated diverticulitis
___
-colostomy reversal ___
-appendectomy

 
Social History:
___
Family History:
Uncle had prostate cancer
 
Physical Exam:
ADMISSION EXAM:
 CONSTITUTIONAL: cachectic man in NAD
 EYE: sclerae anicteric, EOMI
 ENT: audition grossly intact, MMM, OP clear 
 LYMPHATIC: No LAD
 CARDIAC: RRR, no M/R/G, JVP not elevated, no edema
 PULM: normal effort of breathing, LCAB
 GI: soft, NT, ND, NABS. Laparotomy scar
 GU: no CVA tenderness, suprapubic region soft and nontender
 MSK: no visible joint effusions or acute deformities.
 DERM: no visible rash. No jaundice.
 NEURO/PSYCH: AAOx2-3. Abnormal interaction. He speaks in a
rambling, vague and tangential way. Picking at things.  No 
facial
droop, moving all extremities.
 PSYCH: Full range of affect
==============
DISCHARGE EXAM:
VITALS: ___ 1121 Temp: 98.4 PO BP: 151/97 L Lying HR: 83 
RR: 18 O2 sat: 98% O2 delivery: RA 
GENERAL: Alert and in no apparent distress, appears comfortable, 
conversant
EYES: Anicteric
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. Moist 
mucus membranes.
CV: RRR, no murmurs/rubs, no S3, no S4. 2+ radial pulses 
bilaterally.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored on room air.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.  
GU: No GU catheter present
MSK: Moves all extremities, no edema or swelling
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented to person, place, month, year; face 
symmetric, speech fluent, moves all limbs, no asterixis
PSYCH: Calm, partially cooperative
 
Pertinent Results:
ADMISSION RESULTS:
___ 03:30AM BLOOD WBC-10.3* RBC-5.09 Hgb-15.0 Hct-45.1 
MCV-89 MCH-29.5 MCHC-33.3 RDW-15.1 RDWSD-46.1 Plt Ct-UNABLE TO 
___ 03:30AM BLOOD Neuts-78.1* Lymphs-13.9* Monos-7.5 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-8.06* AbsLymp-1.43 
AbsMono-0.77 AbsEos-0.00* AbsBaso-0.02
___ 05:53AM BLOOD ___ PTT-23.1* ___
___ 05:53AM BLOOD Glucose-127* UreaN-39* Creat-1.3* Na-138 
K-2.4* Cl-74* HCO3-47* AnGap-17
___ 05:53AM BLOOD ALT-7 AST-17 AlkPhos-66 TotBili-1.1
___ 05:53AM BLOOD Albumin-3.4* Calcium-9.3 Phos-3.3 Mg-2.7*
___ 12:05PM BLOOD ___ pO2-39* pCO2-74* pH-7.48* 
calTCO2-57* Base XS-25
___ 06:22PM BLOOD pH-7.39 Comment-GREEN TOP
___ 03:38AM BLOOD Glucose-134* Lactate-2.2* Creat-1.3* 
Na-140 K-2.8* Cl-73* calHCO3-54*
=============
PERTINENT INTERVAL RESULTS
___ 08:56PM BLOOD Glucose-124* UreaN-19 Creat-1.0 Na-146 
K-3.0* Cl-99 HCO3-38* AnGap-9*
___ 12:00PM BLOOD Calcium-7.8* Phos-1.1* Mg-2.3
___ 12:00PM BLOOD VitB12-1385*
___ 11:56AM BLOOD TSH-0.22*
___ 05:00PM BLOOD T3-60*
___ 11:56AM BLOOD Free T4-1.4
___ 12:00PM BLOOD Trep Ab-NEG
___ 12:00PM BLOOD HIV Ab-NEG
___ 11:56AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 09:13PM BLOOD ___ pO2-49* pCO2-66* pH-7.41 
calTCO2-43* Base XS-13 Comment-GREEN TOP 
___ 06:22PM BLOOD freeCa-1.01*
___ 09:18AM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-4* pH-8.5* Leuks-NEG
___ 09:18AM URINE RBC-<1 WBC-<1 Bacteri-FEW* Yeast-NONE 
Epi-<1
___ 09:18AM URINE CastGr-2* CastHy-10*
=================
DISCHARGE LABS:
___ 09:02AM BLOOD WBC-8.2 RBC-4.06* Hgb-12.0* Hct-36.2* 
MCV-89 MCH-29.6 MCHC-33.1 RDW-14.8 RDWSD-47.8* Plt ___
___ 09:23AM BLOOD ___ PTT-25.6 ___
___ 09:02AM BLOOD Glucose-142* UreaN-11 Creat-0.9 Na-147 
K-3.1* Cl-97 HCO3-38* AnGap-12
___ 09:02AM BLOOD Calcium-8.2* Phos-2.9 Mg-2.2
=================
___ 9:18 am URINE      Source: ___. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.
___ 3:30 am BLOOD CULTURE      # 2. 
   Blood Culture, Routine (Pending):    No growth to date. 
___ 3:20 am BLOOD CULTURE      # 1. 
   Blood Culture, Routine (Pending):    No growth to date. 
=================
CXR ___:
Lungs are hyperinflated.  No focal consolidation is seen.  No
pleural effusion or pneumothorax.  The descending aorta appears
tortuous.  No cardiomegaly. 
.
CT HEAD WITHOUT CONTRAST ___:
Atrophy.  No evidence of mass, hemorrhage or infarction.
.
RUQ ULTRASOUND ___:
1. Echogenic renal cortex, suggestive of chronic medical renal 
disease. 
2. No sonographic evidence of cirrhosis, splenomegaly, ascites 
or 
hydronephrosis. 
3. Borderline echogenic liver no focal liver lesion. 
.
EKG ___:
Sinus rhythm with premature atrial depolarizations with aberrant 
conduction
Left axis deviation
Nonspecific ST and T wave abnormality
Prolonged QT interval
Abnormal ECG
When compared with ECG of ___ 13:47,
Infero-lateral T wave changes have improved.
HR is faster
 
Brief Hospital Course:
Mr. ___ is a ___ yo man with polysubstance abuse (IV heroin and 
cocaine), hepatitis C, HTN, who presented with weakness, dyspnea 
and vomiting.  He was found to have severe metabolic alkalosis, 
hypokalemia, hypophosphatemia, hypermagnesemia, acute kidney 
injury, and acute encephalopathy.  His renal function has 
normalized and electrolyte abnormalities have improved.  His 
mental status improved and he was
AOx3.

ACUTE/ACTIVE PROBLEMS:
# Acute toxic metabolic encephalopathy: On admission, he was 
oriented x2-3.  He does have history of hepatitis C and was 
noted to have asterixis initially, which raised question of 
hepatic encephalopathy, so he was empirically started on 
lactulose. 
However, RUQ ultrasound on ___ showed no evidence of 
cirrhosis, so discontinued scheduled lactulose TID.  Other 
possibility is that his mental status changes were related to 
___ and metabolic abnormalities. Hyperthyroidism could also be a 
possibility, since TSH was suppressed but with normal free T4, 
though no intervention regarding this suppressed TSH. He had no 
focal neurologic deficits and CT head without contrast on ___ 
showed no acute abnormalities, only atrophy.  He had negative 
serum and urine tox screen.  He had negative HIV antibody, 
Treponemal antibody, and B12 was not low.  VBG showed 
hypercapnia but normal pH so this is probably chronic.  He is 
AOx3 and I do not really know how far this is from his baseline, 
but I suspect this is very close. Unfortunately had to use 
Lorazepam PRN for nausea since QTc was prolonged, but he was not 
using frequently and last dose was on ___.  His psychiatrist 
at ___ said at baseline he has been AOx3 and not exhibiting 
cognitive problems.  He was evaluated by physical therapy and 
had no need for home ___ or SNF.

# Nausea/vomiting: Unclear etiology, but likely caused his 
metabolic alkalosis, which was improved since admission.  His 
frequent bowel movements were probably worsened by lactulose, 
which was continued.  Closer to discharge, his episodes of 
vomiting did not appear to be true emesis, but rather spitting 
up of saliva.  He was given PRN Ativan 0.5mg Q6H, but he was not 
using >24 hours prior to discharge, so not prescribed on 
discharge.  Unable to use other agents due to prolonged QTc of 
598 on ___ and 572 on ___.  Ordered to get KUB on ___ for 
further evaluation (though benign abdominal exam) but patient 
refused.  

# Acute kidney injury: Initial creatinine was elevated to 
1.3-1.4, though no recent baseline available.  Back in ___ 
creatinine was 0.7.  Suspect he had acute kidney injury 
secondary to hypovolemia due to nausea and vomiting, as 
creatinine has improved to 0.9 after IV fluids.  He was 
tolerating oral intake and creatinine was 0.9 on discharge.

# Hypokalemia: 
# Hypophosphatemia: Resolved
# Hypochloremia: Resolved
He was given IV and oral repletion for low potassium and 
phosphorus.  He had normal phosphorus of 2.9 on discharge, but 
since this was while on oral repletion QID, he was discharged 
with BID Neutra-Phos to maintain normal level.  His K was 3.1 
and he was given 60meq the day of discharge and prescribed 40meq 
daily on discharge, since needing nearly daily repletion.  He 
should have BMP, calcium, magnesium, phosphorus checked as an 
outpatient within the next 5 days, as he may be able to stop the 
potassium and phosphorus supplements.

# Metabolic alkalosis
# Respiratory acidosis: Most likely his electrolyte deficiencies 
and alkalosis are primarily related to volume depletion and 
vomiting, as both are improving. Unclear why he has respiratory 
acidosis (pCO2 74-->60s) but pH is normal, which is more
suspicious for chronic issue.  CXR showed hyperinflated lungs 
and he is a smoker, so may have undiagnosed COPD.

# Leukocytosis: Mild, with WBC ___, without fevers.  Urine 
culture contaminated on ___.  Resolved. Blood cultures from 
___ had no growth to date.

# Normocytic anemia: Hb was 15 on admission and decreased to 
___, but all counts decreased and he'd gotten IV fluids in 
setting of repeated vomiting, so probably hemoconcentrated 
initially.  He denies blood in emesis and has not had blood in
stool.  Hb was 12 on discharge.

# HTN: SBP mostly in 120s-130s, but up to 160s at times.  He is 
not on anti-hypertensive medication at baseline and was not 
started as inpatient.

# Polysubstance abuse: He recently relapsed on heroin and 
stopped his Suboxone and also admits to frequent cocaine use.  
His suboxone was held in setting of acute metabolic issues.  He 
was unclear about when he'd stopped taking his Suboxone - on 
admission he'd said that he had already stopped (unclear why), 
but prior to discharge, he said that he'd been on it until he 
came to the hospital.  Social work was following.  Addiction 
psychiatry was consulted for assistance with restarting 
Suboxone.  His psychiatrist is Dr. ___, who 
prescribes his  suboxone.  I spoke with her by phone at 
___.  He last saw her on ___, and sees every 4 
weeks.  Urine screen back then was clean and has been clean for 
years, except intermittently positive for cocaine, which he does 
admit to using sometimes.  He will need close follow up with Dr. 
___ addiction psychiatry gave him a prescription for 8mg 
suboxone to bridge until he can see Dr. ___.

# QTc prolongation: QTc 572 on ___ and should be monitored with 
serial EKGs as outpatient.

# Severe malnutrition: 
# Weight loss, abnormal, unintentional: Unclear etiology, may be 
related to above acute issues but need to keep in mind other 
more sinister etiologies. Never had colonoscopy, no TB contacts, 
no symptoms of TB. Negative HIV test.  Nutrition was consulted.  
He was eating while hospitalized and tolerating most oral 
intake.  He was given daily multivitamin and thiamine 
supplement. He needs age appropriate cancer screening, including 
colonoscopy, but can be done as outpatient.

# Hepatitis C: Will need referral to GI doctor for outpatient 
follow up

# Tobacco use: Daily nicotine patch

TRANSITION OF CARE ISSUES:
- I personally called his psychiatrist and PCP's offices to make 
follow up appointments and the soonest appointments were in 
___, so booked those appointments but trying to see if he can 
get sooner appointment.  If so, please call him directly to let 
him know.  I gave him a prescription for CBC, BMP, Ca, Mg, Phos 
that he could take to a lab near him and have results be faxed 
to his PCP.
- Recheck CBC, BMP, Ca, Mg, Phos within 5 days of discharge
- If he has persistent abdominal pain and vomiting, may need 
further imaging and workup, but the patient declined while here
- Outpatient workup for possible COPD given respiratory acidosis 
and is a smoker
- Follow up blood cultures from ___ - no growth to date
- Will need referral to GI doctor for outpatient follow up for 
hepatitis C that is untreated
- He will need repeat EKG to monitor prolonged QTc.  Avoid QTc 
prolonging medications
- He needs age appropriate cancer screening, including 
colonoscopy, but can be
done as outpatient
====================
Mr. ___ is clinically stable for discharge today. The total 
time spent today on discharge planning, counseling and 
coordination of care today was greater than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Buprenorphine-Naloxone Tablet (8mg-2mg) 1 TAB SL BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
3.  Neutra-Phos 1 PKT PO DAILY 
RX *potassium, sodium phosphates 280 mg-160 mg-250 mg 1 
packet(s) by mouth once a day Disp #*14 Packet Refills:*0 
4.  Nicotine Patch 14 mg TD DAILY:PRN Tobacco withdrawal 
RX *nicotine 14 mg/24 hour 1 patch once a day Disp #*30 Patch 
Refills:*0 
5.  Potassium Chloride 40 mEq PO DAILY 
Hold for K > 
RX *potassium chloride 20 mEq 2 tab by mouth once a day Disp 
#*14 Tablet Refills:*0 
6.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
7.  Buprenorphine-Naloxone Tablet (8mg-2mg) 1 TAB SL BID  
8.Outpatient Lab Work
CBC, BMP, magnesium, phosphorus, calcium to be drawn on/after 
___
ICD-9 code: ___, ___, ___, ___.___
FAX: Dr. ___ ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute kidney injury
Encephalopathy
Hypokalemia
Metabolic alkalosis
Hypophosphatemia
Prolonged QTc

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you.

You were admitted for nausea and were found to have acute kidney 
injury. We think this was due to a combination of dehydration, 
poor oral intake, and drug use. You got better with IV fluids 
and monitoring and repletion of your electrolytes.  Your kidney 
function is back to normal.  It's important to stay well 
hydrated.  If you're having worsening nausea and vomiting and 
cannot keep fluids down, then call your doctor or go to the 
emergency department if severe.  Your potassium and phosphorus 
have been low, so you have been started on a potassium and 
phosphorus supplement.  You have a prescription to have lab work 
done, which you can take to any lab near you, and have the 
results faxed to your primary doctor.
 
We recommend you not use cocaine or heroin and continue to 
follow up with a primary care doctor and psychiatrists, as you 
have appointments scheduled with both.  Recommend having kidney 
function and electrolytes checked with your primary doctor to 
make sure these are normal. You will need a referral to a 
gastroenterologist (GI doctor) for your hepatitis C and your 
primary care doctor can help set this up.
 
Followup Instructions:
___